* source LAB4
E_U1         N01138 0 VALUE {LIMIT(V(N01742,N00137)*1E6,-40V,+40V)}
R_R1         N00137 N01138  9k TC=0,0 
R_R2         0 N00137  1k TC=0,0 
R_R3         N01742 N01729  1k TC=0,0 
C_C1         N00137 N01138  1.1n  TC=0,0 
V_V2         N01729 0 DC 0Vdc AC 2Vac 
